US05134152
2(a) (2R*,3S*,4S*)-2-(2,4-Difluorophenyl)-4,5-epoxy-3-methyl-1-(1H-1,2,4-triazol-1-yl)-2-pentanol
1.360 g (6.19 mmole) of 3-chloroperoxybenzoic acid of 80% purity) were added at 0° C. to a solution of 960 mg (3.44 mmole) of (2R*,3S*)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-4-penten-2-ol (which was synthesized following the procedure disclosed in Japanese Patent Provisional Publication No. Sho 60-36468) in 30 ml of methylene chloride. Five minutes after the addition, the reaction mixture was stirred, and this stirring was continued overnight at room temperature. The reaction mixture was then diluted with ethyl acetate, after which it was washed, in turn, with an aqueous solution of sodium sulfite, with an aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride. After it had been dried, the mixture was freed from the solvent by distillation under reduced pressure. The resulting residue was subjected to column chromatography through silica gel, using a 1:2 by volume mixture of ethyl actate and hexane as the eluent, to afford 320 mg of stereoisomer A of the title compound (having the lower polarity), melting at 160°-180° C. and 206 mg of the desired stereoisomer B of the title compound (having the higher polarity) as an oil.

reactant | 3-chloroperoxybenzoic acid | 6.19 mmole, 1.360 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | (2R*,3S*)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-4-penten-2-ol | 3.44 mmole, 960 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@H](C=C)C)O | C14H15F2N3O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R*,3S*,4S*)-2-(2,4-Difluorophenyl)-4,5-epoxy-3-methyl-1-(1H-1,2,4-triazol-1-yl)-2-pentanol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@H]([C@H]1CO1)C)O | C14H15F2N3O2
